US07868197B2
N-(2-Bromo-4,6-dimethylphenyl)(4,5-dimethyl-6H-cyclopenta[b]thien-6-yl)dimethylsilanamine
Under an argon atmosphere, to a solution of 14.8 g (74.2 mmol) of 2-bromo-4,6-dimethylaniline in 200 ml of THF, 29.7 ml of 2.5 M (74.2 mmol) nBuLi in hexanes was added at −80° C. This mixture was warmed for ca. 1 hour to ambient temperature. Then, the resulting solution was added dropwise over ca. 1 hour, while vigorously stirring, to a solution of 18.0 g (74.2 mmol) of chloro(4,5-dimethyl-6H-cyclopenta[b]thien-6-yl)dimethylsilane in 100 ml of THF. The resulting mixture was stirred overnight at ambient temperature, and then, evaporated to dryness. To the residue, 150 ml of toluene was added. This mixture was filtered through a glass frit (G4). The filtrate was evaporated to dryness. Fractional distillation gave a yellow liquid, bp 168-172° C./0.2 mm Hg. The product crystallizes slowly at ambient temperature. Yield 16.5 g (55%).

reactant | 2-bromo-4,6-dimethylaniline | 74.2 mmol, 14.8 g | BrC1=C(N)C(=CC(=C1)C)C | C8H10BrN
reactant | nBuLi | 74.2 mmol, 2.5 M | [Li]CCCC
reactant | chloro(4,5-dimethyl-6H-cyclopenta[b]thien-6-yl)dimethylsilane | 74.2 mmol, 18.0 g | Cl[Si](C)(C)C1C(=C(C2=C1SC=C2)C)C | C11H15ClSSi
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-(2-Bromo-4,6-dimethylphenyl)(4,5-dimethyl-6H-cyclopenta[b]thien-6-yl)dimethylsilanamine | BrC1=C(C(=CC(=C1)C)C)N[Si](C)(C)C1C(=C(C2=C1SC=C2)C)C | C19H24BrNSSi
